US03965220
To a mixture of 225 g. phosphoryl chloride and 2 g. diethylamine hydrochloride there is added 94 g. phenol over a two-hour period at a temperature of 105°-110°C. The temperature is held for two hours at 110°-115°C. to afford phenyl phosphorodichloridate.

reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | diethylamine hydrochloride | Cl.C(C)NCC
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | phenyl phosphorodichloridate | P(OC1=CC=CC=C1)(=O)(Cl)Cl | C6H5Cl2O2P
